US06265411B1
A solution of oxindole (164 mg, 1.23 mmol) in THF (3 ml) was added dropwise under nitrogen, to sodiun hydride (49 mg, 1.23 mmol, prewashed with hexane) in THF (3 ml). The mixture was stirred for 30 minutes at ambient temperature and DMF (2 ml) and then 4-chloro-7-(2-(imidazol-1-yl)ethoxy)-6-methoxyquinazoline (125 mg, 0.41 mmol) was added. The mixture was heated at 60° C. for 30 minutes and the THF was removed by evaporation. The residue was partitioned between saturated aqueous ammonium chloride solution and ether. The organic layer was separated, dried (MgSO4) and the solvent removed by evaporation. The solid was dissolved in methylene chloride (5 ml), methanol (0.5 ml) and isopropanol (3 ml) and SM isopropanolic hydrogen chloride (0.5 ml) was added. The mixture was concentrated by evaporation to 2 ml total volume and the resulting precipitated solid was collected by filtration, washed with isopropanol followed by ether and dried under vacuum to give 7-(2-(imidazol-1-yl)ethoxy)-6-methoxy4-(oxindol-3-yl)quinazoline hydrochloride (110 mg, 61%).

reactant | oxindole | 1.23 mmol, 164 mg | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | hydride | 1.23 mmol, 49 mg | [H-]
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
reactant | 4-chloro-7-(2-(imidazol-1-yl)ethoxy)-6-methoxyquinazoline | 0.41 mmol, 125 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCN1C=NC=C1 | C14H13ClN4O2
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 7-(2-(imidazol-1-yl)ethoxy)-6-methoxy4-(oxindol-3-yl)quinazoline hydrochloride | 110 mg, 61% | Cl.N1(C=NC=C1)CCOC1=C(C=C2C(=NC=NC2=C1)C1C(NC2=CC=CC=C12)=O)OC | InChI=1S/C22H19N5O3.ClH/c1-29-18-10-15-17(11-19(18)30-9-8-27-7-6-23-13-27)24-12-25-21(15)20-14-4-2-3-5-16(14)26-22(20)28;/h2-7,10-13,20H,8-9H2,1H3,(H,26,28);1H
